US08466176B2
To a stirred solution of 1-methyl-1H-tetrazole (4.20 g, 50 mmol) in anhydrous THF (200 mL), cooled to 0° C. with a brine/ice bath, was added dropwise a solution of isopropylmagnesium chloride (2 M in THF, 30 mL, 60.2 mmol). After the addition was over, the resulting cloudy suspension was stirred for 15 min at 0° C. A solution of N-methoxy-N-methyl-3-(methylsulfanyl)benzamide (10.2 g, 39 mmol) in THF (80 mL) was then added dropwise while keeping the internal temperature below 5° C. The reaction mixture was then allowed to warm up and stirred overnight at room temperature. Aq. HCl (1 M, 65 mL) was added to the reaction mixture, the layers were separated, the water phase was extracted with ethyl acetate (3×50 mL) and the combined organic layers were dried over MgSO4. Purification on silica gel afforded [3-(methylsulfanyl)phenyl](1-methyl-1H-tetrazol-5-yl)methanone as a yellow solid [5.95 g, yield 43%; HPLC/MS: m/z=235 (M+H); logP(HCOOH)=2.52].

reactant | 1-methyl-1H-tetrazole | 50 mmol, 4.20 g | CN1N=NN=C1 | C2H4N4
reactant | isopropylmagnesium chloride | 60.2 mmol, 2 M, 30 mL | C(C)(C)[Mg]Cl
reactant | N-methoxy-N-methyl-3-(methylsulfanyl)benzamide | 39 mmol, 10.2 g | CON(C(C1=CC(=CC=C1)SC)=O)C | C10H13NO2S
reactant | HCl | 1 M, 65 mL | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | [3-(methylsulfanyl)phenyl](1-methyl-1H-tetrazol-5-yl)methanone | yield 43% | CSC=1C=C(C=CC1)C(=O)C1=NN=NN1C | C10H10N4OS
